* C:\users\muffin\My Documents\Documents\fall-2013\6.332\ps2\2-b.asc
V3 0 N006 PULSE(1 0 .25 1f 1f 2) AC 1
I1 0 N004 PULSE(0 1 .25 1f 1f 2)
C1 N004 0 16µ
L1 N004 N005 1µ
R1 N004 0 2
R2 N006 N005 .0625
V1 N001 0 PULSE(0 1 .25 1f 1f 2) AC 1
I2 0 N003 PULSE(1 0 .25 1f 1f 2)
C2 N003 0 1µ
L2 N003 N002 16µ
R3 N003 0 16meg
R4 N001 N002 .5µ
V2 N007 0 PULSE(1 0 .25 1n 1n 2) AC 1
I3 0 N009 PULSE(0 -1 .25 1n 1n 2)
C3 N009 0 1µ
L3 N009 N008 16µ
R5 N009 0 -16meg
R6 N007 N008 -.5µ
.tran 0 .25025 .24975 .001m
.backanno
.end
