* Z:\home\muffin\Documents\fall-2013\thesis\simulations\adc-in.asc
XU1 0 N002 vcc vee 4Vo LT1632
V1 vee 0 -10
V2 vcc 0 10
R2 Vo N002 10k
V3 vin 0 PULSE(0 1 0 1n 1n 1m 2m) AC 1
V4 voff 0 PULSE(-10 10 3m 10m 10m 1n 20.01m)
XU2 vin N001 vcc vee N001 LT1632
V5 vof 0 0
R4 N002 N001 10k
R5 2Vo Vo 10k
R6 4Vo 2Vo 20k
R1 Vo 0 5meg
C1 Vo 0 35p
.ac dec 10 1 10meg
.step param r LIST 1k 5k 10k 50k 100k
.lib LTC.lib
.backanno
.end
